US09428528B2
Step 5 Preparation of N-((1S,2R)-2-{4-[6-(Acetylamino-methyl)-pyridin-3-yl]-phenyl}-1-fluoromethyl-2-hydroxy-ethyl)-2,2-dichloro-acetamide
To a stirred solution of crude N-{(1S,2R)-2-[4-(6-Aminomethyl-pyridin-3-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-2,2-dichloro-acetamide (30 mg, 0.077 mmol) in CH2Cl2 (2 mL) is added triethyl amine (8 mg, 0.078 mmol) and acetic anhydride (20 mg, 0.198) and the reaction mixture was stirred at room temperature for 6 h. Diluted with water and extracted with CH2Cl2 dried over sodium sulphate and solvent is evaporated in vacuo to give crude, which is purified by silica gel prep TLC using the mobile phase 10% methanol in CH2Cl2 to afford title compound (5 mg): 1H-NMR (400 MHz, DMSO-d6) δ: (s, 3H), 4.30-4.34 (m, 1H), 4.45 (d, J=5.96 Hz, 2H), 4.48-4.51 (m, 1H), 4.55-4.58 (m, 1H), 5.00 (d, 1H), 5.95 (d, 1H), 6.12 (s, 1H), 6.99 (bs, 1H), 7.34-7.36 (m, 1H), 7.47-7.50 (m, 2H), 7.62-7.67 (m, 2H), 7.96 (dd, J1=8.2 Hz, J2=2.4 Hz, 1H), 8.76 (d, J=2.2 Hz, 1H). LC-Ms (m/z): [M+H]=428.10.

reactant | N-{(1S,2R)-2-[4-(6-Aminomethyl-pyridin-3-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-2,2-dichloro-acetamide | 0.077 mmol, 30 mg | NCC1=CC=C(C=N1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C17H18Cl2FN3O2
reactant | triethyl amine | 0.078 mmol, 8 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 20 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-((1S,2R)-2-{4-[6-(Acetylamino-methyl)-pyridin-3-yl]-phenyl}-1-fluoromethyl-2-hydroxy-ethyl)-2,2-dichloro-acetamide | 5 mg | C(C)(=O)NCC1=CC=C(C=N1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C19H20Cl2FN3O3
